US07238689B2
A solution of 0. 16 g (4.2 mmoles) of lithium aluminum hydride dissolved in 15 ml of THF was cooled to 0° C. Thereto was gradually added a solution of 0.93 g (4.2 mmoles) of 4-ethoxycarbonyl-5-methyl-3-trifluoromethylisoxazole dissolved in 15 ml of THF. The mixture was stirred at 0° C. for 1 hour to give rise to a reaction. After the completion of the reaction, ethyl acetate was added, followed by stirring for a while. Water was added, followed by stirring for a while. The reaction mixture was filtered under vacuum. The filtrate was extracted with diethyl ether. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 0.5 g (yield: 60.0%) of (5-methyl-3-trifluoromethylisoxazol-4-yl)-methanol.

reactant | lithium aluminum hydride | 4.2 mmoles, 16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-ethoxycarbonyl-5-methyl-3-trifluoromethylisoxazole | 4.2 mmoles, 0.93 g | C(C)OC(=O)C=1C(=NOC1C)C(F)(F)F | C8H8F3NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | Water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (5-methyl-3-trifluoromethylisoxazol-4-yl)-methanol | 0.5 g, yield: 60.0% | CC1=C(C(=NO1)C(F)(F)F)CO | C6H6F3NO2
